US08293768B2
Synthesis of 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Example 6, making variations as required to replace ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate with ethyl 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained in 88% yield: 1H NMR (300 MHz, DMSO-d6) δ 7.43-6.94 (m, 5H), 4.39 (s, 2H), 3.97 (t, J=8.1 Hz, 2H), 3.42 (t, J=8.1 Hz, 2H), 2.46 (s, 3H); MS (ES+) m/z 384.2 (M+1).

reactant | ethyl 4-methyl-2-(2-oxo-3-phenylimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(N(CC1)C1=CC=CC=C1)=O | C16H17N3O3S
reactant | ethyl 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC(OC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)OCC)=O)C=C1)F | C18H19F2N3O4S
product | 2-(3-(4-(difluoromethoxy)benzyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 88% yield | FC(OC1=CC=C(CN2C(N(CC2)C=2SC(=C(N2)C)C(=O)O)=O)C=C1)F | C16H15F2N3O4S
